US03974186
2,6-BIS[2-(DIMETHYLAMINO)ETHOXY]ANTHRAQUINONE DIHYDROCHLORIDE
A well-stirred mixture of 12 g. (0.05 mole) of 2,6-dihydroxyanthraquinone, 400 ml. of chlorobenzene, 50 ml of methanol, and 5.4 g. (0.10 mole) of sodium methoxide was heated to boiling, and the methanol distilled from the mixture. When the boiling point of the distillate had reached about 130°C., the mixture was allowed to cool below 100°. Then, a solution of 2-dimethylaminoethyl chloride in 200 ml. of chlorobenzene, prepared from 43.2 g. (0.30 mole) of 2-dimethylaminoethyl chloride hydrochloride, was added and the resulting mixture heated to reflux with continued stirring for 24 hours. When cool, the mixture was poured into 400 ml. of about one per cent sodium hydroxide solution. The aqueous layer was extracted with chloroform. The combined organic fractions were washed well with water, dried over anhydrous magnesium sulfate, filtered, and the solvents removed under reduced pressure in a rotary evaporator. The residue was dissolved in isopropanol and the solution acidified to Congo Red by the addition of ethereal hydrogen chloride. The dihydrochloride salt was recrystallized again from isopropanol to give the pure compound, M.P. 278°-280°C. (dec.) γmax. (H2O) 273 mμ, E1cm1% 967.

reactant | 2,6-dihydroxyanthraquinone | 0.05 mole | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | sodium methoxide | 0.10 mole | C[O-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.30 mole | Cl.CN(CCCl)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | H2O | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2,6-BIS[2-(DIMETHYLAMINO)ETHOXY]ANTHRAQUINONE DIHYDROCHLORIDE | Cl.Cl.CN(CCOC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCCN(C)C)=O)C | InChI=1S/C22H26N2O4.2ClH/c1-23(2)9-11-27-15-5-7-17-19(13-15)21(25)18-8-6-16(14-20(18)22(17)26)28-12-10-24(3)4;;/h5-8,13-14H,9-12H2,1-4H3;2*1H
